US06150373
A solution of 5 g (14.1 mmol) of 3-(2,6-dichlorophenyl)-7-methylthio-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one in 200 ml of dichloromethane was cooled in ice and treated with 10 g (28.9 mmol) of 3-chloroperbenzoic acid. The mixture was stirred at room temperature for 17 hours, then treated with 2 ml of dimethyl sulfoxide and left to stand for 10 minutes. 100 ml of saturated aqueous sodium bicarbonate solution were then added and the phases were separated. The organic phase was dried over magnesium sulfate and filtered. Concentration of the filtrate under reduced pressure gave 5 g (92%) of 3-(2,6-dichlorophenyl)-7-methanesulfonyl-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one as a white solid.

reactant | 3-(2,6-dichlorophenyl)-7-methylthio-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one | 14.1 mmol, 5 g | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)SC)C)=O | C14H12Cl2N4OS
reactant | 3-chloroperbenzoic acid | 28.9 mmol, 10 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 3-(2,6-dichlorophenyl)-7-methanesulfonyl-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one | 5 g, 92% | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C)=O | C14H12Cl2N4O3S
